US07799822B2
To a solution of (R)-4-(3-(tert-butyldiphenylsilyloxy)-2-oxopyrrolidin-1-yl-N-(thiazol-2-yl)benzenesulfonamide (5.5 gm, 9.53 mmol) in THF (40 mL) under N2, was added a solution of tetrabutyl ammonium fluoride in THF (1 M, 40 mL, 38.12 mmol). Upon completion of addition, the mixture was stirred at RT overnight. The reaction mixture was poured into water and extracted with CH2Cl2 (2×50 mL), dried over magnesium sulfate, and concentrated. Purification via silica gel chromatography using 2-10% MeOH in CH2Cl2 gave (R)-4-(3-hydroxy-2-oxopyrrolidin-1-yl-N-(thiazol-2-yl)benzenesulfonamide (2.6 gm, 76%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=340.0; tR=0.54 min.

reactant | 3-(tert-butyldiphenylsilyloxy)-2-oxopyrrolidin-1-yl-N-(thiazol-2-yl)benzenesulfonamide | 9.53 mmol, 5.5 gm | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1C(N(CC1)C1=C(C=CC=C1)S(=O)(=O)NC=1SC=CN1)=O | C29H31N3O4S2Si
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 38.12 mmol, 1 M, 40 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-2-oxopyrrolidin-1-yl-N-(thiazol-2-yl)benzenesulfonamide | 2.6 gm, 76% | OC1C(N(CC1)C1=C(C=CC=C1)S(=O)(=O)NC=1SC=CN1)=O | C13H13N3O4S2
